US09359340B2
Triethylamine (7.32 mL, 52.5 mmol) was added to a solution of 5-chlorothiophene-2-acetic acid (8.83 g, 50.0 mmol) in ether (200 mL) at −78° C., followed by 2,2-dimethylpropanoyl chloride (6.46 mL, 52.5 mmol). The resulting mixture was stirred at 0° C. for 2 hours, and then re-cooled to −78° C. Meanwhile, a solution of (R)-4-benzyl-2-oxazolidinone (9.30 g, 52.5 mmol) in THF (100 mL) in a separated flask was cooled to −78° C. 2.5M of n-butyllithium in hexane (22.0 mL) was added dropwise. The resulting solution was stirred at −78° C. for 1 hour, and then added via cannula into the solution of the mixed anhydride. The reaction mixture was stirred at −78° C. for 15 minutes, at 0° C. for 30 minutes, then at room temperature overnight. Saturated NHCl (300 mL) was added to quench the reaction. The mixture was extracted with EtOAc (3×200 mL). The combined organics were dried (Na2SO4), filtered and concentrated. The crude product was purified by silica gel chromatography, eluting with EtOAc/hexane (0-25%) to give (R)-4-benzyl-3-(2-(5-chlorothiophen-2-yl)acetyl)oxazolidin-2-one (9.43 g, 56%). 1H NMR (CDCl3, 400 MHz) δ 7.33-7.25 (m, 3H), 7.16-7.13 (m, 2H), 6.79-6.76 (m, 2H), 4.70-4.65 (m, 1H), 4.38 (q, J=17.2 Hz, 2H), 4.25-4.18 (m, 2H), 3.27 (dd, J=13.6 Hz, J=3.6 Hz, 1H), 2.77 (dd, J=13.6 Hz, J=3.6 Hz, 1H).

reactant | Triethylamine | 52.5 mmol, 7.32 mL | C(C)N(CC)CC | C6H15N
reactant | 5-chlorothiophene-2-acetic acid | 50.0 mmol, 8.83 g | ClC1=CC=C(S1)CC(=O)O | C6H5ClO2S
reactant | 2,2-dimethylpropanoyl chloride | 52.5 mmol, 6.46 mL | CC(C(=O)Cl)(C)C | C5H9ClO
reactant | (R)-4-benzyl-2-oxazolidinone | 52.5 mmol, 9.30 g | C(C1=CC=CC=C1)[C@H]1NC(OC1)=O | C10H11NO2
reactant | n-butyllithium | 2.5M | C(CCC)[Li]
solvent | ether | 200 mL | CCOCC | C4H10O
solvent | THF | 100 mL | C1CCOC1 | C4H8O
solvent | hexane | 22.0 mL | CCCCCC | C6H14
product | (R)-4-benzyl-3-(2-(5-chlorothiophen-2-yl)acetyl)oxazolidin-2-one | 9.43 g, 56% | C(C1=CC=CC=C1)[C@H]1N(C(OC1)=O)C(CC=1SC(=CC1)Cl)=O | C16H14ClNO3S
